US04618634
(a) N-(2-Chloroacetyl)-N-(2,2,6,6-tetramethyl-piperidin-4-yl)-ethylamine
A solution of 23.16 g (0.205 mol) of chloroacetyl chloride in 30 ml of methylene chloride is slowly added to a solution of 36.85 g (0.2 mol) of N-(2,2,6,6-tetramethyl-piperidin-4-yl)-ethylamine in 160 ml of methylene chloride cooled to -20° C., taking care that the temperature does not rise above -10° C. The mixture is stirred for one hour and then left to stand, allowing the temperature to rise to 0° C.; a solution of 8.4 g (0.21 mol) of sodium hydroxide in 35 ml of water is then added in the course of 1 hour.

reactant | chloroacetyl chloride | 0.205 mol, 23.16 g | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(2,2,6,6-tetramethyl-piperidin-4-yl)-ethylamine | 0.2 mol, 36.85 g | CC1(NC(CC(C1)NCC)(C)C)C | C11H24N2
reactant | sodium hydroxide | 0.21 mol, 8.4 g | [OH-].[Na+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | water | 35 ml | O | H2O
product | N-(2-Chloroacetyl)-N-(2,2,6,6-tetramethyl-piperidin-4-yl)-ethylamine | ClCC(=O)N(C1CC(NC(C1)(C)C)(C)C)CC | C13H25ClN2O
